US08871361B2
Synthesis of 1-(2,6-diisopropylphenyl)-2-(3-methoxy-5-methylphenyl)-1H-imidazole
To a 250 mL round bottom flask was mixed N-(2,6-diisopropylphenyl)-3-methoxy-5-methylbenzimidamide (5.83 g, 17.97 mmol), sodium bicarbonate (3.02 g, 35.9 mmol), 2-chloroacetaldehyde (50%, 4.56 ml, 35.9 mmol), and 80 mL of 2-propanol. The reaction mixture was heated to reflux for 3 hours under nitrogen. The reaction mixture was diluted with water and ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate. The organic layers were washed with 10% LiCl solution, brine, dried over magnesium sulfate, filtered, evaporated leaving a brown oil. The oil was purified by column chromatography eluting with 20% ethyl acetate/hexane (5.78 g, 92%).

reactant | N-(2,6-diisopropylphenyl)-3-methoxy-5-methylbenzimidamide | 17.97 mmol, 5.83 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(C1=CC(=CC(=C1)C)OC)=N | C21H28N2O
reactant | sodium bicarbonate | 35.9 mmol, 3.02 g | C([O-])(O)=O.[Na+]
reactant | 2-chloroacetaldehyde | 35.9 mmol, 4.56 ml | ClCC=O | C2H3ClO
reactant | 2-propanol | 80 mL | CC(C)O | C3H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-diisopropylphenyl)-2-(3-methoxy-5-methylphenyl)-1H-imidazole | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(=NC=C1)C1=CC(=CC(=C1)C)OC | C23H28N2O
